US07947851B2
Step c) Formation of Methyl 4-[(4-butylphenyl)ethynyl]benzoate
To a solution of 1-butyl-4-ethynylbenzene (Aldrich, 25.0 g, 0.157 mol) and methyl 4-bromobenzoate (Aldrich, 30.9 g, 0.143 mol) in dry acetonitrile (300 mL) under nitrogen was added cuprous iodide (1.36 g, 7.18 mmol), TEA (43.6 g, 0.431 mol) followed by Pd(PPh3)2Cl2 (5.0 g, 7.18 mmol) and the reaction mixture was stirred at 85° C. for 20 hrs. The solvent was removed under reduced pressure. The residue was taken up with Et2O (300 ml) and washed with water and brine. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. Purification by flash chromatography on silicagel (PetEther) gave 23.0 g (55%) of the.title compound.

reactant | 1-butyl-4-ethynylbenzene | 0.157 mol, 25.0 g | C(CCC)C1=CC=C(C=C1)C#C | C12H14
reactant | methyl 4-bromobenzoate | 0.143 mol, 30.9 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 7.18 mmol, 5.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-[(4-butylphenyl)ethynyl]benzoate | 23.0 g, 55% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C(=O)OC)C=C1 | C20H20O2
